US07732463B2
1-Bromo-2-(4-methoxy-phenylsulfanyl)-benzene (intermediate for 1b).
Prepared from 4-methoxy-benzenethiol and 1-bromo-2-iodo-benzene.

reactant | 4-methoxy-benzenethiol | COC1=CC=C(C=C1)S | C7H8OS
reactant | 1-bromo-2-iodo-benzene | BrC1=C(C=CC=C1)I | C6H4BrI
product | 1-Bromo-2-(4-methoxy-phenylsulfanyl)-benzene | BrC1=C(C=CC=C1)SC1=CC=C(C=C1)OC | C13H11BrOS
